US05011947
Ethyl 3,3-bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenoate
A mixture of ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-(1,1-dimethylethyl)propionate (1.0 g, 2.8 mmol) and p-toluenesulfonic acid (0.3 g) in 20 mL toluene was heated at reflux for 45 minutes. The mixture was cooled and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 1% ethyl acetate in hexane. Concentration of the appropriate fractions gave an oil which was crystallized from petroleum ether to give 0.35 g of the title compound; m.p. =60°-62° C.

reactant | ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-(1,1-dimethylethyl)propionate | 2.8 mmol, 1.0 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)C(C)(C)C)(O)C1=CC=C(C=C1)F | C21H24F2O3
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3,3-bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenoate | 0.35 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C(C)(C)C)C1=CC=C(C=C1)F | C21H22F2O2
